US05466701
To a solution of tetramethylethylenediamine (31 mL) in THF (500 mL) at-78° C. was added sec-butyllithium (170 mL, 1.1M), followed by 2-sec-butyl-4-methoxy-N,N-diethylbenzamide (45 g) in THF (150 mL). The mixture was stirred at -78° for 15 minutes, then at 0° C. for 30 minutes, then sulfur dioxide (50 mL) was condensed into the mixture at -78° C. The mixture was warmed to -10° C., sulfuryl chloride (17 mL) was added and then the mixture was slowly warmed to room temperature and stirred overnight. The reaction mixture was added to a solution of ammonium hydroxide (94 mL) in THF (200 mL), the mixture was filtered through a pad of silica/Na2SO4 /sand to afford 51.8 g of 2-aminosulfonyl-6-sec-butyl-4-methoxy-N,N-diethylbenzamide.

reactant | tetramethylethylenediamine | 31 mL | CN(CCN(C)C)C | C6H16N2
reactant | sec-butyllithium | 1.1M, 170 mL | C(C)(CC)[Li]
reactant | 2-sec-butyl-4-methoxy-N,N-diethylbenzamide | 45 g | C(C)(CC)C1=C(C(=O)N(CC)CC)C=CC(=C1)OC | C16H25NO2
reactant | sulfur dioxide | 50 mL | S(=O)=O | O2S
reactant | sulfuryl chloride | 17 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ammonium hydroxide | 94 mL | [OH-].[NH4+]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-aminosulfonyl-6-sec-butyl-4-methoxy-N,N-diethylbenzamide | 51.8 g | NS(=O)(=O)C1=C(C(=O)N(CC)CC)C(=CC(=C1)OC)C(C)CC | C16H26N2O4S
